US04102881
To a solution of 3.8 parts of 5-chloro-2-(2-bromo-1-ethoxyethylideneamino)benzophenone in 30 parts by volume of acetone is added with stirring a solution of 1.5 parts of sodium iodide in 12 parts by volume of acetone. After about one hour, the resulting precipitate is removed by filtration. The filtrate is concentrated under reduced pressure. The concentrate is treated with petroleum ether to give 5-chloro-2-(1-ethoxy-2-iodoethylideneamino)benzophenone as crystals. The crystals are recrystallized from n-hexane to give pale brown pillars melting at 67°-68° C.

reactant | 5-chloro-2-(2-bromo-1-ethoxyethylideneamino)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N=C(CBr)OCC | C17H15BrClNO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-2-(1-ethoxy-2-iodoethylideneamino)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N=C(CI)OCC | C17H15ClINO2
